US04051173
A solution of 3.2 g. of 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methylpropionic acid in 20 ml. of absolute THF is added dropwise to a mixture of 0.57 g. of LiAlH4 in 20 ml. of absolute THF. The mixture is boiled for 8 hours, 2 ml. of water in 3 ml. of THF and 4 ml. of 25% sodium hydroxide solution are added, the liquid is decanted off and the residue is washed with ether. Drying, filtering and evaporating the combined organic phases gives 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methyl-propanol, m.p. 67°-70° C.

reactant | 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methylpropionic acid | ClC1=CC=C(OCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=C1 | C17H17ClO4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methyl-propanol | ClC1=CC=C(OCC2=CC=C(OC(CO)(C)C)C=C2)C=C1 | C17H19ClO3
